US06603008B1
5-(5-(3-Fluoro-4-(1,3-thiazol-4-yl)phenyl)-3-trifluoromethyl-1H-pyrazol-1-yl)-2-pyridinesulfonamide Hydrochloride (Step 8)
5-(5-(3-Fluoro-4-(1,3-thiazol-4-yl)phenyl)-3-trifluoromethyl-1H-pyrazol-1-yl)-2-pyridinesulfonamide (172 mg, 0.37 mmol) was dissolved with HCl-MeOH and the solvent was removed. The residue was washed with ethyl acetate to afford 120 mg (64.1%) of the titled compound as a slight yellow solid.

reactant | 5-(5-(3-Fluoro-4-(1,3-thiazol-4-yl)phenyl)-3-trifluoromethyl-1H-pyrazol-1-yl)-2-pyridinesulfonamide | 0.37 mmol, 172 mg | FC=1C=C(C=CC1C=1N=CSC1)C1=CC(=NN1C=1C=CC(=NC1)S(=O)(=O)N)C(F)(F)F | C18H11F4N5O2S2
reactant | HCl MeOH | Cl.CO
product | 5-(5-(3-Fluoro-4-(1,3-thiazol-4-yl)phenyl)-3-trifluoromethyl-1H-pyrazol-1-yl)-2-pyridinesulfonamide Hydrochloride | 120 mg, 64.1% | Cl.FC=1C=C(C=CC1C=1N=CSC1)C1=CC(=NN1C=1C=CC(=NC1)S(=O)(=O)N)C(F)(F)F | InChI=1S/C18H11F4N5O2S2.ClH/c19-13-5-10(1-3-12(13)14-8-30-9-25-14)15-6-16(18(20,21)22)26-27(15)11-2-4-17(24-7-11)31(23,28)29;/h1-9H,(H2,23,28,29);1H
